US08975254B2
a) 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2,6-difluorobenzonitrile
The title compound was prepared from 2,6-difluoro-4-(1H-pyrazol-5-yl)-benzonitrile (1.50 g, 7.31 mmol) and tert-butyl N-(2-hydroxyethyl)carbamate (0.96 ml, 6.09 mmol), triphenylphosphine (1.918 g, 7.31 mmol) and DIAD (1.200 ml, 6.09 mmol) using the method of Example 34 (c) affording 0.30 g of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.60 (m, 2H), 2.94 (t, 2H), 4.14 (t, 2H), 7.01 (d, 1H), 7.79 (m, 2H), 7.88 (d, 1H).

reactant | 2,6-difluoro-4-(1H-pyrazol-5-yl)-benzonitrile | 7.31 mmol, 1.50 g | FC1=C(C#N)C(=CC(=C1)C1=CC=NN1)F | C10H5F2N3
reactant | tert-butyl N-(2-hydroxyethyl)carbamate | 6.09 mmol, 0.96 ml | OCCNC(OC(C)(C)C)=O | C7H15NO3
reactant | triphenylphosphine | 7.31 mmol, 1.918 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 6.09 mmol, 1.200 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
product | 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2,6-difluorobenzonitrile | 0.30 g | NCCN1N=C(C=C1)C1=CC(=C(C#N)C(=C1)F)F | C12H10F2N4
